US08236793B2
N-[4-(1,4-Diaza-bicyclo[3.2.2]non-4-yl)-phenyl]-3-cyano-benzamide hydrochloric acid salt (Compound G8)
Was prepared by Method G from 4-(1,4-diaza-bicyclo[3.2.2]non-4-yl)-phenylamine and 3-cyanobenzoyl chloride. Mp. 250° C. (decomp.).

reactant | 4-(1,4-diaza-bicyclo[3.2.2]non-4-yl)-phenylamine | N12CCN(C(CC1)CC2)C2=CC=C(C=C2)N | C13H19N3
reactant | 3-cyanobenzoyl chloride | C(#N)C=1C=C(C(=O)Cl)C=CC1 | C8H4ClNO
product | N-[4-(1,4-Diaza-bicyclo[3.2.2]non-4-yl)-phenyl]-3-cyano-benzamide hydrochloric acid salt | Cl.N12CCN(C(CC1)CC2)C2=CC=C(C=C2)NC(C2=CC(=CC=C2)C#N)=O | InChI=1S/C21H22N4O.ClH/c22-15-16-2-1-3-17(14-16)21(26)23-18-4-6-19(7-5-18)25-13-12-24-10-8-20(25)9-11-24;/h1-7,14,20H,8-13H2,(H,23,26);1H
